US06239142B1
Mercuric oxide (7.10 g) and iodine (8.32 g) are added portion-wise to a solution of ethyl 4-hydroxythieno[2,3-b]pyridine-5-carboxylate (J. Heterocyclic Chem. 1977, 14, 807) (5.22 g) in CHCl3 (90 mL). The reaction is stirred at rt for 18 h. The reaction mixture is filtered, and the solid is washed with CHCl3 (400 mL). The organic layer is washed with H2O (200 mL), dried with MgSO4, filtered, and concentrated in vacuo. The resulting orange solid is purified by column chromatography (CH2Cl2:heptane, 1:1). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield 2.95 g (36%) of ethyl 4-hydroxy-2-iodothieno[2,3-b]pyridine-5-carboxylate as a pale yellow solid. Ethyl 4-hydroxy-2-iodothieno[2,3-b]pyridine-5-carboxylate (2.64 g) is suspended in 10% NaOH (21 mL) and heated to reflux. The reaction is stirred at reflux for 1 h and then cooled to rt. The reaction mixture is poured into H2O (80 mL). Conc. HCl is added until a precipitate forms, and 2.272 g (94%) of 4-hydroxy-2-iodothieno[2,3-b]pyridine-5-carboxylic acid is isolated as a white solid. Carbonyldiimidazole (1.34 g) is added to a solution of 4-hydroxy-2-iodothieno[2,3-b]pyridine-5-carboxylic acid (2.041 g) in DMF (58 mL). The reaction is heated to 60° C. and stirred for 18 h. The reaction mixture is cooled to rt, and 4-chlorobenzylamine (1.01 mL, 8.27) is added. The reaction is stirred at rt for 7 h. The reaction mixture is poured into 20% aqueous HOAc (180 mL), and the resulting white solid is filtered off. This material is recrystallized from methanol then toluene to yield 2.095 g (74%) of the title compound as a white solid.

reactant | iodine | 8.32 g | II | I2
reactant | ethyl 4-hydroxythieno[2,3-b]pyridine-5-carboxylate | 5.22 g | OC1=C2C(=NC=C1C(=O)OCC)SC=C2 | C10H9NO3S
solvent | CHCl3 | 90 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-hydroxy-2-iodothieno[2,3-b]pyridine-5-carboxylate | 2.95 g, 36% | OC1=C2C(=NC=C1C(=O)OCC)SC(=C2)I | C10H8INO3S
